US05616599
51(a) 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-2-methyl-1-(1-methylethyl)propyl]imidazole-5-carbonitrile
Following a procedure similar to that described in Example 45(a), but using 282 mg of 2-butyl-4-[1-hydroxy-2-methyl-1-(1-methylethyl)propyl]imidazole-5-carbonitrile (prepared as described in Preparation 30), 409 mg of t-butyl 4'-(bromomethyl)biphenyl-2-carboxylate and 47 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) in 5 ml of N,N-dimethylacetamide, 513 mg of the title compound were obtained as a viscous oil.

reactant | 2-butyl-4-[1-hydroxy-2-methyl-1-(1-methylethyl)propyl]imidazole-5-carbonitrile | 282 mg | C(CCC)C=1NC(=C(N1)C(C(C)C)(C(C)C)O)C#N | C15H25N3O
reactant | t-butyl 4'-(bromomethyl)biphenyl-2-carboxylate | 409 mg | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
reactant | sodium hydride | 47 mg | [H-].[Na+]
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-2-methyl-1-(1-methylethyl)propyl]imidazole-5-carbonitrile | 513 mg | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C#N)C(C(C)C)(C(C)C)O)CCCC | C33H43N3O3
